US05192765
1-Diphenylmethoxymethyl-1-(4-methoxyphenethylamino)cyclopentane
The title compound was prepared as described in Example 1 using 1-amino-1-diphenylmethoxymethylcyclopentane (see Preparation 4) and 4-methoxyphenethyl bromide. The title compound was obtained as a pale brown oil which was characterised as a hydrate (0.50 g, 49%).

reactant | 1-amino-1-diphenylmethoxymethylcyclopentane | NC1(CCCC1)COC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H23NO
reactant | 4-methoxyphenethyl bromide | COC1=CC=C(CCBr)C=C1 | C9H11BrO
product | 1-Diphenylmethoxymethyl-1-(4-methoxyphenethylamino)cyclopentane | C1(=CC=CC=C1)C(OCC1(CCCC1)NCCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C28H33NO2
